Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Tuna Oil
 
Attending: ___
 
Chief Complaint:
Aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old right-handed female with history of
hypertension, diabetes, and hyperlipidemia who presents with an
episode of aphasia. Her daughter says that the patient seemed to
have some mild left sided weakness yesterday, and she was
dragging her left foot when she walked. However, she was talking
and otherwise acting like herself. This morning, Ms. ___ woke
up around 8am, and she usually is able to get out of bed and fix
herself breakfast. However, this morning, the patient just 
stayed
sitting in bed. Her daughter brought her a banana, and she was
eating it but just using her right hand. Her daughter says that
her left hand was just sitting on the bed. Ms. ___ also seemed
off, like she was going to fall over just sitting up. She was
complaining of some back pain, and they gave her some tramadol,
which she sometimes receives. They then got her into the
bathroom, and they helped bathe her. She then got dressed, and
then Ms. ___ sat down. This was around 1130am. She had been
speaking and acting mostly normally to this point, but then
stopped talking. Her daughter says that she was not speaking and
she did not seem to be responding to commands. They called EMS
who brought her to ___. On arrival to ___, she was thought 
to
have left sided weakness, left facial droop, and not speaking or
following commands.

Ms. ___ had had an episode ___ years ago where she was
admitted with altered mental status. At that time it was thought
that these symptoms were due to hypertensive encephalopathy. She
did improve but never quite returned to her baseline.

Unable to obtain a full review of systems because of language
difficulty.

 
Past Medical History:
-hypertension
-h/o acute pancreatitis
-hypercholesterolemia
-h/o sigmoid polyp
-type II DM
-h/o proteinuria
-h/o back pain
-recent L knee pain 

-s/p hysterectomy
-s/p appendectomy

 
Social History:
___
Family History:
Father with diabetes. No known neurological disorders.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Physical Exam:  
Vitals: 
General: Awake
HEENT: NC/AT, no scleral icterus noted, MMM 
Neck: Supple
Pulmonary: No increased WOB
Cardiac: RRR
Abdomen: soft, non-distended
Skin: no rashes or lesions noted.  
  
Neurologic:  
-Mental Status: Alert, speaks ___ and says a few words,
answers her birthdate correctly and identifies her daughter and
granddaughter, follows most commands
  
-Cranial Nerves: II: PERRL 3 to 2mm and brisk. VFF to blink to
threat III, IV, VI: EOMI without nystagmus VII: No facial droop,
facial musculature symmetric. VIII: Hearing intact to finger-rub
bilaterally. IX, X: Palate elevates symmetrically. XII: Tongue
protrudes in midline with normal strength  
  
-Motor: Normal tone throughout. No pronator drift bilaterally.   

 Delt Bic Tri Quad Ham 
L 5    5   5    5   5  
R 5    5   5    5   5 
  
-Sensory: No deficits to light touch
  
-DTRs:  
  Bi Tri ___ Pat Ach  
L ___     2   1  
R ___     2   1  
  
-Coordination: No intention tremor
  
-Gait: deferred

================================

DISCHARGE PHYSICAL EXAM
T 98.5 BP 127-149/46-67 HR 50-101 RR 17 Sat 97% RA
MS: Awake, alert, oriented to person, place, year and birthdate. 
Does not know president. Speech fluent though minimal 
spontaneous verbal output. No apparent dysarthria (speaks ___. 
CN: Eyes follow in horizontal directions without nystagmus. 
Trouble following target in vertical direction. Left facial 
droop. Tongue protrudes midline.  
Motor: Left sided plegia. Effort dependent exam on the right. 
Lifts arm and leg at least antigravity. 
Coordination: grabs at objects with her right hand
Gait: unable to assess due to plegia

 
Pertinent Results:
ADMISSION LABS
___ 12:05PM BLOOD WBC-9.3 RBC-3.83* Hgb-10.6* Hct-33.5* 
MCV-88 MCH-27.7 MCHC-31.6* RDW-14.7 RDWSD-47.1* Plt ___
___ 07:30AM BLOOD WBC-6.5 RBC-3.88* Hgb-10.7* Hct-33.2* 
MCV-86 MCH-27.6 MCHC-32.2 RDW-14.6 RDWSD-45.7 Plt ___
___ 11:31PM BLOOD Neuts-67.9 Lymphs-17.9* Monos-13.8* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-6.10 AbsLymp-1.61 
AbsMono-1.24* AbsEos-0.00* AbsBaso-0.00*
___ 07:30AM BLOOD ___ PTT-36.2 ___
___ 12:05PM BLOOD Plt ___
___ 12:05PM BLOOD ___ PTT-41.9* ___
___ 07:30AM BLOOD Glucose-115* UreaN-13 Creat-0.8 Na-135 
K-4.0 Cl-99 HCO3-25 AnGap-15
___ 01:40PM BLOOD Na-135 K-4.3 Cl-100
___ 11:31PM BLOOD ALT-20 AST-22 LD(LDH)-217 AlkPhos-51 
TotBili-0.4
___ 06:05PM BLOOD cTropnT-<0.01
___ 04:05PM BLOOD CK-MB-4 cTropnT-<0.01
___ 04:55AM BLOOD Calcium-9.5 Phos-4.7* Mg-2.0
___ 07:30AM BLOOD Cholest-263*
___ 07:30AM BLOOD %HbA1c-6.0* eAG-126*
___ 07:30AM BLOOD Triglyc-69 HDL-83 CHOL/HD-3.2 
LDLcalc-166*
___ 04:55AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:16PM BLOOD Glucose-112* Na-134 K-8.2* Cl-102 
calHCO3-22

IMAGING

___ ECHO
Severe aortic valve stenosis. Mild symmetric left ventricular 
hypertrophy with preserved regional and global biventricular 
systolic function. Increased PCWP. No definite structural 
cardiac source of embolism identified.

___ CXR
Compared to prior chest radiographs since ___, most 
recently ___. 
Feeding tube, with the wire stylet in place now ends below the 
diaphragm in the mid stomach. 
Lungs lung volume but clear.  No pulmonary edema.  Moderate 
cardiomegaly 
increased.  No appreciable pleural effusion or indication of 
pneumothorax. 

___ MR HEAD W/O CONTRAST
1. New acute infarct in the right anterior cerebral artery 
distribution 
involving the superior parasagittal frontal lobe, right 
cingulate gyrus and areas of right superior parietal lobe near 
the vertex, there is no evidence of acute hemorrhagic 
transformation. 
2. Stable encephalomalacia in bilateral anterior frontal lobes, 
right greater than left. 

___ CT HEAD W/O CONTRAST
1. New right anterior cerebral artery distribution infarction, 
appears 
subacute. 
2. Stable bifrontal encephalomalacia with a background of 
senescent volume 
loss. 

___ EEG
This is an abnormal video-EEG monitoring session because of a 
slower than normal background without clear wakefulness. No 
focal or 
epileptiform features were seen. 

___ ECG
Sinus rhythm. Prominent voltage in leads I and aVL for left 
ventricular 
hypertrophy. Compared to the previous tracing of ___ the 
anterolateral 
ischemic-appearing T wave abnormalities are less prominent. 
There is increased voltage recorded in leads I and aVL. Followup 
and clinical correlation are suggested.  

___ MR HEAD W/O CONTRAST
1. 2 punctate foci of low diffusion in the right frontal lobe, 
near the 
convexity, which may represent small acute infarcts versus 
artifact. 
2. Stable bifrontal encephalomalacia with a background of 
senescent volume 
loss. 

___ CTA HEAD W&W/O C & RECONS
1. Stable bifrontal encephalomalacia, likely sequelae of prior 
infarct.  No acute hemorrhage. 
2. Area of hypodensity in the medial left parietal lobe, which 
appears to have been present on the prior CT, but appears more 
prominent likely given 
differences in technique and secondary to sulcal prominence. 
3. Focal cut off of the mid right A2 segment of uncertain 
chronicity. 
4. Approximately 30% stenosis of the proximal right internal 
carotid artery by NASCET criteria. 
5. Extensive dental disease, recommend dental consultation. 

___ Video swallow 
SUMMARY:
Ms. ___ presents with a moderate oropharyngeal dysphagia,
characterized by oral phase deficits, reduced laryngeal valve
closure, and a swallow initiation delay. This resulted in
intermittent laryngeal penetration with nectar-thick liquids and
consistent laryngeal penetration with thin liquids, with thin
liquid material in the airway resulting in events of aspiration.
Recommend pt initiate diet of nectar-thick liquids and pureed
solids, pills crushed in applesauce. Standard aspiration
precautions apply. Pt will require assistance with meals during
her admission and upon return home. Prognosis for return to
baseline swallow function guarded at this time given 
neurological
changes and pending improvement to laryngeal/pharyngeal 
sensation
and airway protection. ___ and MD team re: tube feed
weaning and need for continued enteral nutrition. Provided pt
with handout on obtaining thickening packets when she returns
home. Recommend SLP f/u for continued dxtx on an outpatient 
basis
or with home visiting services. We will continue to follow to
assess diet tolerance. Please page for questions/concerns in the
interim.

RECOMMENDATIONS:
1. Initiate PO diet of nectar-thick liquids and pureed solids
2. Pills: crushed in applesauce
3. TID oral care
4. Standard aspiration precautions, including:
- 1:1 assist
- Small sips/bites
5. Recommend SLP f/u upon discharge on an outpatient basis or
through home services for continued dxtx
6. We will continue to follow to assess diet tolerance. Please
page for questions/concerns in the interim.

DISCHARGE LABS:
___ 05:45AM BLOOD WBC-7.5 RBC-3.71* Hgb-10.3* Hct-32.3* 
MCV-87 MCH-27.8 MCHC-31.9* RDW-15.0 RDWSD-47.5* Plt ___
___ 05:30AM BLOOD ___ PTT-36.2 ___
___ 05:45AM BLOOD Glucose-106* UreaN-30* Creat-0.8 Na-137 
K-4.3 Cl-102 HCO3-26 AnGap-13
___ 05:45AM BLOOD Calcium-9.6 Phos-4.1 Mg-2.3
 
Brief Hospital Course:
Ms. ___ is a ___ yo ___-speaking F with history 
of hypertension, diabetes, HLD, old right pontine/left basal 
lacunes presents with an episode of confusion and reduced speech 
found to have an acute right ACA infarct. 

Patient was admitted for MRI which was initially negative. On 
___ the patient had an episode of fluctuating L-sided 
weakness/alertness. EEG was negative. Repeat MRI showed an acute 
infarct in the right anterior cerebral artery distribution 
involving the superior parasagittal frontal lobe, right 
cingulate gyrus and areas of right superior parietal lobe near 
the vertex, with no evidence of acute hemorrhagic 
transformation. She was seen and evaluated by Speech and Swallow 
in the context of high risk of aspiration after her stroke, as 
well as fluctuating mental status and abulia. She failed swallow 
evaluation and was made NPO to prevent aspiration. A dobhoff was 
placed and she was started on tubefeeds per nutrition 
recommendation. TTE was done for stroke work-up which was 
negative for intracardiac thrombus. Severe aortic stenosis was 
incidentally found. Cardiology was consulted who recommended 
outpatient management. She was seen and evaluated by ___ and OT, 
who recommended rehab for further care and recuperation after 
discharge. However, as she is undocumented and does not have 
insurance benefits for rehab, she will have to be discharged 
home and cared for by her family. She lives with her daughter 
and granddaughter. The most notable barrier to discharge was her 
NPO status and aspiration risk. Family meeting on ___ revealed 
that daughter would like more time to discuss PEG with her 
brother and out of country family. On ___, patient had a video 
swallow and patient was started on nectar thickened liquids and 
pureed diet, which she is tolerating well. Due to lack of 
insurance, patient discharged home with 24 hour care with 
extensive education from case management regarding resources, 
including Hoyer lift, nursing education regarding crushed 
medication administration, nutrition education regarding pureed 
and nectar thick diet and ___ education regarding transfers, 
turns in bed, etc.

Transitional issues:
-cardiology follow-up for severe aortic stenosis
-continue swallow follow-up, advance diet as tolerated

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Labetalol 200 mg PO TID 
2. Lisinopril 40 mg PO DAILY 
3. Amlodipine 10 mg PO DAILY 
4. Pravastatin 80 mg PO QPM 
5. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
6. potassium chloride 10 mEq oral DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Amantadine Syrup 100 mg PO DAILY 
RX *amantadine HCl 50 mg/5 mL 10 ml by mouth daily Refills:*5
3. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5
5. MetFORMIN (Glucophage) 500 mg PO DAILY 
RX *metformin 500 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5
6. Hydrochlorothiazide 50 mg PO DAILY 
RX *hydrochlorothiazide 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*5
7. Lisinopril 60 mg PO DAILY 
RX *lisinopril 30 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*5
8. Aspirin 81 mg PO DAILY 
9. HydrALAzine 20 mg PO TID 
RX *hydralazine 10 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ACA stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of left sided weakness, 
decreased speech resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Diabetes
- high cholesterol

We are changing your medications as follows:  
- please start taking aspirin and Plavix (clopidogrel) every day
- started atorvastatin 80mg daily
- started amantadine daily to increase alertness after your 
stroke

Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___